US04666902
(6-(3,4-Dimethoxyphenyl)-3-oxo-2,3,4,5-tetrahydro-pyridazin-5-yl)-methyl 4-chlorophenoxyacetate
4.7 g (0.025 mol) of 4-chlorophenoxyacetic acid and 4.3 g (0.027 mol) of carbonyldiimidazole are heated under reflux in 100 of tetrahydrofuran for 15 minutes. After the mixture has been cooled, 6.7 g (0.025 mol) of 6-(3,4-dimethoxyphenyl)-5-hydroxymethyl-2,3,4,5-tetrahydropyridazin-3-one are added with stirring. After a reaction time of 5 hours, the mixture is concentrated at room temperature and the residue is worked up as in Example 5.

reactant | 4-chlorophenoxyacetic acid | 0.025 mol, 4.7 g | ClC1=CC=C(OCC(=O)O)C=C1 | C8H7ClO3
reactant | carbonyldiimidazole | 0.027 mol, 4.3 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 6-(3,4-dimethoxyphenyl)-5-hydroxymethyl-2,3,4,5-tetrahydropyridazin-3-one | 0.025 mol, 6.7 g | COC=1C=C(C=CC1OC)C=1C(CC(NN1)=O)CO | C13H16N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (6-(3,4-Dimethoxyphenyl)-3-oxo-2,3,4,5-tetrahydro-pyridazin-5-yl)-methyl 4-chlorophenoxyacetate | ClC1=CC=C(OCC(=O)OCC2CC(NN=C2C2=CC(=C(C=C2)OC)OC)=O)C=C1 | C21H21ClN2O6
